US07148234B2
STEP 1. 2-[6-chloro-1-[4-(2-chloroethyl)phenyl]-5-(trifluoromethyl)-1H-benzimidazol-2-yl]-2-propanol
The title compound was prepared according to the procedure described in Example 339, step 3 & Example 1, step 5 from 2-hydroxyisobutyric acid and 4-chloro-N2-[4-(2-chloroethyl)phenyl]-5-(trifluoromethyl)-1,2-benzenediamine.

reactant | 2-hydroxyisobutyric acid | OC(C(=O)O)(C)C | C4H8O3
reactant | 4-chloro-N2-[4-(2-chloroethyl)phenyl]-5-(trifluoromethyl)-1,2-benzenediamine | ClC=1C=C(C(=CC1C(F)(F)F)N)NC1=CC=C(C=C1)CCCl | C15H13Cl2F3N2
product | 2-[6-chloro-1-[4-(2-chloroethyl)phenyl]-5-(trifluoromethyl)-1H-benzimidazol-2-yl]-2-propanol | ClC=1C(=CC2=C(N(C(=N2)C(C)(C)O)C2=CC=C(C=C2)CCCl)C1)C(F)(F)F | C19H17Cl2F3N2O
